US07026335B2
Preparation of 4-cyclohexyl-4-[1,2,4]triazole-1-ylmethylpiperidine (18):
To a solution of trifluoroacetic acid/dichloromethane/water (1:1:0.1, 10 mL) is added 4-cyclohexyl-4-[1,2,4]triazole-1-ylmethyl-piperidine-1-carboxylic acid tert-butyl ester, 3, (3.5 g, 10 mmol) which was obtained in the procedure herein above and the reaction mixture is allowed to stir for 30 to 60 minutes. The reaction solution is then concentrated in vacuo and partitioned between aqueous NaHCO3 and EtOAc. The organic phase is concentrated in vacuo and the crude product purified by HPLC over silica gel to afford the desired product.

reactant | 4-cyclohexyl-4-[1,2,4]triazole-1-ylmethyl-piperidine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CCC(CC1)(CN1N=CN=C1)C1CCCCC1 | C19H32N4O2
solvent | trifluoroacetic acid dichloromethane water | 10 mL | FC(C(=O)O)(F)F.ClCCl.O
product | 4-cyclohexyl-4-[1,2,4]triazole-1-ylmethylpiperidine | C1(CCCCC1)C1(CCNCC1)CN1N=CN=C1 | C14H24N4
